US08748415B2
Preparation of tert-butyl 4-(2-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)ethyl)piperazine-1-carboxylate
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (0.1 g, 0.167 mmol) in DCE (2 ml) was added acetic acid (0.019 ml, 0.334 mmol) and 4-N-(2-Aminoethyl)-1-N-Boc-piperazine (0.077 g, 0.334 mmol). The mixture was stirred at rt for 2 h then to the mixture was added sodium triacetoxyborohydride (0.177 g, 0.835 mmol). The mixture was stirred for 3 days at rt then was diluted with 7 ml of sat. NaHCO3 and was extracted with dichloromethane (3×7 ml). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The crude product was used in the next step without further purification. LCMS: m/e 812.3 (M+H)+, 3.30 min (method 6).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.167 mmol, 0.1 g | C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H58O3
reactant | acetic acid | 0.334 mmol, 0.019 ml | C(C)(=O)O | C2H4O2
reactant | 4-N-(2-Aminoethyl)-1-N-Boc-piperazine | 0.334 mmol, 0.077 g | NCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H23N3O2
reactant | sodium triacetoxyborohydride | 0.835 mmol, 0.177 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
solvent | NaHCO3 | 7 ml | C(=O)(O)[O-].[Na+]
product | tert-butyl 4-(2-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)ethyl)piperazine-1-carboxylate | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNCCN5CCN(CC5)C(=O)OC(C)(C)C)C)C)(C)C | C52H81N3O4
